US07122543B2
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(4-methoxyphenyl)benzoate
To a solution of methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate (411 mg, 0.8090 mmol) in toluene (12 ml) were added tetrakistriphenylphosphine palladium (60 mg, 0.0519 mmol), aqueous solution of sodium carbonate (2M aqueous solution, 1.35 ml), lithium chloride (89 mg, 2.0995 mmol) and ethanolic solution (2.0 ml) of 4-methoxybenzene boronic acid (369 mg, 2.4282 mmol) and the mixture was heated with stirring at 95° C. for 16 hours. The reaction solution was diluted with ethyl acetate (100 ml), washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to give the title compound (351 mg, 0.7532 mmol, 93%).

reactant | methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(trifluoromethanesulfonyl)oxybenzoate | 0.8090 mmol, 411 mg | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)OS(=O)(=O)C(F)(F)F)C(=C(C1OC)OC)OC)C | C21H23F3O9S
reactant | sodium carbonate | 2M, 1.35 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium chloride | 2.0995 mmol, 89 mg | [Cl-].[Li+]
reactant | 4-methoxybenzene boronic acid | 2.4282 mmol, 2.0 ml, 369 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-(4-methoxyphenyl)benzoate | 0.7532 mmol, 351 mg, 93% | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)C2=CC=C(C=C2)OC)C(=C(C1OC)OC)OC)C | C27H30O7
